US08754242B2
A solution of ethyl chloroformate (0.071 g, 0.65 mmol) in dichloromethane (0.5 ml) is added dropwise to a solution of (1RS,2SR,6RS,7SR)-4-(2,6-diethyl-4-methylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione (0.172 g, 0.55 mmol) in dichloromethane (2 ml) at 0° C. and the reaction mixture is stirred. A solution of triethylamine (0.066 g, 0.65 mmol) in dichloromethane (1 ml) is added and the reaction mixture is stirred at room temperature for 17 hours, warming slowly to room temperature. The reaction mixture is diluted with dichloromethane (3 ml) and washed with saturated aqueous sodium bicarbonate solution. The organic phase is separated, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give carbonic acid (1RS, 2SR,6RS,7SR)-5-oxo-4-(2,6-diethyl-4-methylphenyl)-10-oxatricyclo-[5.2.1.02,6]-dec-3-en-3-yl ester ethyl ester as a colourless solid.

reactant | ethyl chloroformate | 0.65 mmol, 0.071 g | ClC(=O)OCC | C3H5ClO2
reactant | (1RS,2SR,6RS,7SR)-4-(2,6-diethyl-4-methylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | 0.55 mmol, 0.172 g | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2C3CCC(C2C1=O)O3)=O | C20H24O3
reactant | triethylamine | 0.65 mmol, 0.066 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | carbonic acid (1RS, 2SR,6RS,7SR)-5-oxo-4-(2,6-diethyl-4-methylphenyl)-10-oxatricyclo-[5.2.1.02,6]-dec-3-en-3-yl ester ethyl ester | C(C)OC(OC=1C2C3CCC(C2C(C1C1=C(C=C(C=C1CC)C)CC)=O)O3)=O | C23H28O5
